US07897601B2
To a solution of 5-(2,4-dichloro-phenyl)-penta-2,4-dienoyl chloride (62.5 mmol) in 300 mL CH2Cl2 at 0° C. was added Et3N (13.0 mL) followed by DMAP (i.e., 4-diaminomethylpyridine) (760 mg). To this was added a solution of 3-(4-chloro-phenyl)-allylamine (10.5 g) in 30 mL CH2Cl2. The mixture was stirred at 0° C. for 1 hr. Then 2 mL of MeOH was added, and the solution was stirred for 10 min. The solution was then diluted with aq. NaHCO3 and extracted with EtOAc. Filtration of solids and concentration of EtOAc layers provided a combined yield of 24.6 g of 5-(2,4-dichloro-phenyl)-penta-2,4-dienoic acid [3-(4-chloro-phenyl)-allyl]-amide. MS: m/e 392.2 (MH+)

reactant | 5-(2,4-dichloro-phenyl)-penta-2,4-dienoyl chloride | 62.5 mmol | ClC1=C(C=CC(=C1)Cl)C=CC=CC(=O)Cl | C11H7Cl3O
reactant | Et3N | 13.0 mL | CCN(CC)CC | C6H15N
reactant | 3-(4-chloro-phenyl)-allylamine | 10.5 g | ClC1=CC=C(C=C1)C=CCN | C9H10ClN
reactant | MeOH | 2 mL | CO | CH4O
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 760 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 5-(2,4-dichloro-phenyl)-penta-2,4-dienoic acid [3-(4-chloro-phenyl)-allyl]-amide | yield of 24.6 g | ClC1=CC=C(C=C1)C=CCNC(C=CC=CC1=C(C=C(C=C1)Cl)Cl)=O | C20H16Cl3NO
